US07943613B2
To a degassed solution of 1-bromo-3-trifluoromethylbenzene (20.0 g, 88.8 mmol) in tetrahydrofuran (160 ml) were in the following order added: copper(I) iodide (506 mg, 2.66 mmol), tetrakis(triphenylphosphine)palladium (3.06 g, 26.6 mmol), and 1,8-diazabicyclo-[5.4.0]undec-7-ene (16.22 g, 106.6 mmol). The resulting mixture was degassed one more time, cooled in an ice bath and a solution of propargyl alcohol (5.94 g, 106.6 mmol) in tetrahydrofuran (10 mL) was added over period of 20 min. The reaction mixture was slowly heated up to 55° C. and then stirred at this temperature for 16 h. The mixture was diluted with diethyl ether (400 mL), washed with water (100 mL), 5% hydrochloric acid (100 mL) and saturated aqueous solution of sodium hydrogen carbonate (80 mL). The organic solution was dried with anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography (silica gel Fluka 60, hexanes/ethyl acetate 85:15) affording 3-(3-trifluoromethylphenyl)prop-2-yn-1-ol.

reactant | 1-bromo-3-trifluoromethylbenzene | 88.8 mmol, 20.0 g | BrC1=CC(=CC=C1)C(F)(F)F | C7H4BrF3
reactant | 1,8-diazabicyclo-[5.4.0]undec-7-ene | 106.6 mmol, 16.22 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | propargyl alcohol | 106.6 mmol, 5.94 g | C(C#C)O | C3H4O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
catalyst | copper(I) iodide | 2.66 mmol, 506 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 26.6 mmol, 3.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-trifluoromethylphenyl)prop-2-yn-1-ol | FC(C=1C=C(C=CC1)C#CCO)(F)F | C10H7F3O
